US07858794B2
(a). 4-Methyl-1,2-dihydroquinoline
A solution of lepidine (10.0 g) in THF was cooled down to −78° C., after which a solution of BH3.THF in THF (1 M, 70 ml) was added. After 2 h, a solution of sodium bis(2-methoxy-ethoxy)aluminum dihydride in toluene (3.5 M, 40 ml) was added and the reaction mixture was stirred for an additional 2 h. Water was added and the mixture diluted with ethyl acetate. The organic layer was separated, dried (MgSO4) and partially concentrated in vacuo causing crystallization of the title compound. The crystals were collected by filtration to yield 3.5 g after drying in vacuo. The remaining mother liquor was concentrated in vacuo and the residue was purified by chromatography on silicagel using heptane/ethyl acetate=0/1=>1/0 ( (v/v) as the eluent to give an additional 4.4 g of the title compound.

reactant | lepidine | 10.0 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | BH3.THF | B.C1CCOC1
reactant | sodium bis(2-methoxy-ethoxy)aluminum dihydride | [H-].[H-].COCCO[Al+]OCCOC.[Na+]
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 M, 70 ml | C1CCOC1 | C4H8O
solvent | toluene | 3.5 M, 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-1,2-dihydroquinoline | 4.4 g | CC1=CCNC2=CC=CC=C12 | C10H11N
